US07560569B2
In a similar manner to Example 4, (2S,4S)-1-[[N-benzyloxycarbonyl-N-[4-(benzotriazol-1-yl)oxycarbonylbicyclo[2.2.2]oct-1-yl]amino]acetyl]-4-fluoropyrrolidine-2-carbonitrile (50.0 mg) and ethyl 4-aminobicyclo[2.2.2]octane-1-carboxylate (22.3 mg) were used to obtain (2S,4S)-1-[[N-benzyloxycarbonyl-N-[4-[N-(4-ethoxycarbonylbicyclo[2.2.2]oct-1-yl)amino]carbonylbicyclo[2.2.2]oct-1-yl]amino]acetyl]-4-fluoropyrrolidine-2-carbonitrile (40.7 mg).

reactant | (2S,4S)-1-[[N-benzyloxycarbonyl-N-[4-(benzotriazol-1-yl)oxycarbonylbicyclo[2.2.2]oct-1-yl]amino]acetyl]-4-fluoropyrrolidine-2-carbonitrile | 50.0 mg | C(C1=CC=CC=C1)OC(=O)N(C12CCC(CC1)(CC2)C(=O)ON2N=NC1=C2C=CC=C1)CC(=O)N1[C@@H](C[C@@H](C1)F)C#N | C30H31FN6O5
reactant | ethyl 4-aminobicyclo[2.2.2]octane-1-carboxylate | 22.3 mg | NC12CCC(CC1)(CC2)C(=O)OCC | C11H19NO2
product | (2S,4S)-1-[[N-benzyloxycarbonyl-N-[4-[N-(4-ethoxycarbonylbicyclo[2.2.2]oct-1-yl)amino]carbonylbicyclo[2.2.2]oct-1-yl]amino]acetyl]-4-fluoropyrrolidine-2-carbonitrile | 40.7 mg | C(C1=CC=CC=C1)OC(=O)N(C12CCC(CC1)(CC2)C(=O)NC21CCC(CC2)(CC1)C(=O)OCC)CC(=O)N1[C@@H](C[C@@H](C1)F)C#N | C35H45FN4O6
